US08486967B2
c) N-(3-Bromo-5-cyclopropyl-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea
To a solution of 3-bromo-5-cyclopropyl-pyridin-2-ylamine (1.0 g, 4.69 mmol) in dry 1,4-dioxane (20 mL) was added ethoxy carbonyl isothiocyanate (0.55 mL, 5.16 mmol) under an argon atmosphere and stirred at room temperature for 6 hours. The solvent was evaporated and the title compound was obtained as light yellow oil (1.5 g, 98%).

reactant | 3-bromo-5-cyclopropyl-pyridin-2-ylamine | 4.69 mmol, 1.0 g | BrC=1C(=NC=C(C1)C1CC1)N | C8H9BrN2
reactant | ethoxy carbonyl isothiocyanate | 5.16 mmol, 0.55 mL | C(C)OC(=O)N=C=S | C4H5NO2S
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-(3-Bromo-5-cyclopropyl-pyridin-2-yl)-N′-ethoxycarbonyl-thiourea | BrC=1C(=NC=C(C1)C1CC1)NC(=S)NC(=O)OCC | C12H14BrN3O2S
